US05196224
Preparation of 3-(4-methylpent-3-enyl)thiophene
217 g of 3-bromomethylthiophene, 513 g of prenylchloride, 117 g of copper (I) iodide and 2 kg of tetrahydrofuran were introduced into a 4-liter reaction flask. 750 g of magnesium shavings were then added in small portions at a rate such that the temperature of the reaction mixture did not rise above 30°. If the temperature rises were to great, the reaction mixture was temporarily cooled. The first portion of magnesium was activated by subliming an iodine crystal onto it. After all the magnesium had been added, a check was made by means of GLC as to whether bromomethylthiophene or prenyl chloride was still present. It was possibly necessary to add more magnesium. The mixture was then stirred for a further hour at 40° C. and after that poured out into a mixture of 180 g of ammonium chloride, 1 liter of water and 500 g of ice, and stirred.

reactant | 3-bromomethylthiophene | 217 g | BrCC1=CSC=C1 | C5H5BrS
reactant | prenylchloride | 513 g | C(C=C(C)C)Cl | C5H9Cl
reactant | magnesium | 750 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | bromomethylthiophene | BrCC=1SC=CC1 | C5H5BrS
reactant | ammonium chloride | 180 g | [Cl-].[NH4+]
catalyst | copper (I) iodide | 117 g | [Cu]I
solvent | water | 1 liter | O | H2O
solvent | tetrahydrofuran | 2 kg | O1CCCC1 | C4H8O
product | 3-(4-methylpent-3-enyl)thiophene | CC(=CCCC1=CSC=C1)C | C10H14S
